US04397850
A suspension of 9.24 g (0.243 mole) of lithium aluminum hydride and 500 ml tetrahydrofuran under nitrogen is heated to reflux and is treated by rapid addition with 18.47 g (0.054 mole) of N,N,1-trimethyl-2-(3-ethyl-5-methyl-4-isoxazolyl)-3-indoleglyoxylamide in 350 ml of tetrahydrofuran. The resulting mixture is heated an additional 15 minutes, cooled, diluted with 350 ml of diethylether and is quenched by the dropwise addition of 60 ml of saturated magnesium sulfate solution. The mixture is then filtered through celite and the filter cake is washed with tetrahydrofuran methylene chloride and methanol. The filtrate is evaporated in vacuo and the residue chromatographed on silica gel using acetone as an eluant to give α-(dimethylaminomethyl)-2-(3-ethyl-5-methyl-4-isoxazolyl)-1-methyl-indole-3-methanol m.p. 119° to 121° C.

reactant | lithium aluminum hydride | 0.243 mole, 9.24 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N,N,1-trimethyl-2-(3-ethyl-5-methyl-4-isoxazolyl)-3-indoleglyoxylamide | 0.054 mole, 18.47 g | CN(C(C(=O)C1=C(N(C2=CC=CC=C12)C)C=1C(=NOC1C)CC)=O)C | C19H21N3O3
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | diethylether | 350 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | α-(dimethylaminomethyl)-2-(3-ethyl-5-methyl-4-isoxazolyl)-1-methyl-indole-3-methanol | CN(C)CC(O)C1=C(N(C2=CC=CC=C12)C)C=1C(=NOC1C)CC | C19H25N3O2
